US08242125B2
Hydroxylamine sulfate (2.5 g, 30.3 mmol) is added to a stirred solution of 3-oxo-3-phenylpropanenitrile (4 g, 27.6 mmol) and NaOH (1.27 g, 31.7 mmol) in H2O (25 mL)/EtOH (25 mL). The mixture is stirred at rt and then heated to 80° C. for 22 h. At this point, conc. HCl (3.39 ml, 41.3 mmol) is added and the mixture heated at 80° C. for an additional 2 h. It is then basified to pH 10 and extracted with EtOAc to give 5-phenyl-isoxazol-3-ylamine. MS (ESI) m/z 161.2 (M+1).

reactant | Hydroxylamine sulfate | 30.3 mmol, 2.5 g | S(=O)(=O)(O)O.NO
reactant | 3-oxo-3-phenylpropanenitrile | 27.6 mmol, 4 g | O=C(CC#N)C1=CC=CC=C1 | C9H7NO
reactant | NaOH | 31.7 mmol, 1.27 g | [OH-].[Na+]
reactant | HCl | 41.3 mmol, 3.39 ml | Cl | ClH
solvent | H2O | 25 mL | O | H2O
solvent | EtOH | 25 mL | CCO | C2H6O
product | 5-phenyl-isoxazol-3-ylamine | C1(=CC=CC=C1)C1=CC(=NO1)N | C9H8N2O
